US09428510B2
5-(3,5-difluorophenylamino)-1H-pyrazolo[4,3-b]pyridin-3-amine
A solution of 713 mg of NaNO2 (10.3 mmol) in water (5 ml) is added, drop by drop, to a stirring solution of 2.3 g of 3-amino-6-(3,5-difluorophenylamino)picolinonitrile (9.4 mmol) in 100 ml of 6 N hydrochloric acid at 0° C. The mixture is stirred for 20 minutes at 0-5° C. A solution of 5.3 g of SnCl2.2H2O (23.5 mmol, 2.5 eq) in hydrochloric acid (12 N solution, 30 ml) is then added drop by drop and the solution is stirred for 1 hour at room temperature. The reaction medium is then cooled at 0° C. and basified to pH 8 using 30% soda solution. The mixture is extracted with ethyl acetate and washed using saturated NaCl solution and the organic phase is dried on anhydrous sodium sulfate before being concentrated under vacuum. The residue is purified by silica column chromatography (AcOEt). A light yellow solid is obtained (530 mg, 22%).

reactant | NaNO2 | 10.3 mmol, 713 mg | N(=O)[O-].[Na+]
reactant | 3-amino-6-(3,5-difluorophenylamino)picolinonitrile | 9.4 mmol, 2.3 g | NC=1C(=NC(=CC1)NC1=CC(=CC(=C1)F)F)C#N | C12H8F2N4
reactant | SnCl2.2H2O | 23.5 mmol, 5.3 g, 2.5 eq | O.O.Cl[Sn]Cl
solvent | water | 5 ml | O | H2O
solvent | hydrochloric acid | 6 N, 100 ml | Cl | ClH
solvent | hydrochloric acid | 12 N, 30 ml | Cl | ClH
product | 5-(3,5-difluorophenylamino)-1H-pyrazolo[4,3-b]pyridin-3-amine | FC=1C=C(C=C(C1)F)NC1=CC=C2C(=N1)C(=NN2)N | C12H9F2N5
